US05275950
(2R,3S)-1-Benzyl-2,3-diacetoxycyclohexa-4,6-diene
The title compound is prepared by the microbial oxidation of diphenylmethane by Pseudomonas putida 39D using the method of T. Hudlicky et al. J. Am. Chem. Soc. 110, 4735-41 (1988) and D. Gibson et al. Biochemistry, 9, 1626-30 (1970) followed by protection as the diacetate using acetic anhydride in pyridine.

reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | diacetate | CC(=O)CC(=O)O | C4H6O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (2R,3S)-1-Benzyl-2,3-diacetoxycyclohexa-4,6-diene | C(C1=CC=CC=C1)C=1[C@H]([C@H](C=CC1)OC(C)=O)OC(C)=O | C17H18O4
